US05484551
50 ml of Jones' reagent were added dropwise while stirring within 15 minutes to a solution of 12.2 g of 4-[(E)-but-2-enoyloxy]benzaldehyde and 100 ml of acetone at 0° C. The reaction mixture was stirred at room temperature overnight, poured into water and extracted three times with 50 ml of ethyl acetate each time. The combined organic phases were extracted twice with 50 ml of 2N sodium hydroxide solution. The combined sodium hydroxide phases were acidified (pH 1) with hydrochloric acid, then extracted three times with SO ml of ethyl acetate. The organic phases were combined and washed twice with 50 ml of water, dried over magnesium sulphate, filtered and subsequently concentrated. Recrystallization of the residue from ethanol gave 10.5 g of 4-[(E)-but-2-enoyloxy]benzoic acid.

reactant | Jones' reagent | 50 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 4-[(E)-but-2-enoyloxy]benzaldehyde | 12.2 g | C(\C=C\C)(=O)OC1=CC=C(C=O)C=C1 | C11H10O3
reactant | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-[(E)-but-2-enoyloxy]benzoic acid | 10.5 g | C(\C=C\C)(=O)OC1=CC=C(C(=O)O)C=C1 | C11H10O4
